US07683064B2
5-Azetidin-1-yl-indan-1-one
5-fluoro-1-indanone (7.44 g, 49.5 mmol), Azetidine HCl (5.1 g, 54.4 mmol) and K2CO3 (13.6 g, 99 mmol) were taken up in 60 ml of DMSO. The reaction mixture was heated at 100 C for 6 hours.

reactant | 5-fluoro-1-indanone | 49.5 mmol, 7.44 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | Azetidine HCl | 54.4 mmol, 5.1 g | Cl.N1CCC1
reactant | K2CO3 | 99 mmol, 13.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 5-Azetidin-1-yl-indan-1-one | N1(CCC1)C=1C=C2CCC(C2=CC1)=O | C12H13NO
